** adapted from:
** sch_path: ihp-sg13g2/libs.tech/xschem/sg13g2_tests/ac_hbt_13g2.sch
**.subckt ac_hbt_13g2
Vce net2 GND 5
XQ1 Vc Vb GND GND npn13G2 Nx=1 selft=0
R1 net2 Vc 40k m=1
Vce1 net1 GND dc 0.8 ac 1m
R2 Vb net1 33k m=1
**** begin user architecture code

.lib cornerHBT.lib hbt_bcs

.param temp=27
.control
save v(vc) v(vb)
ac dec 10 10k 100meg
meas ac vnom_at FIND Vc AT=100k
let v3db = vnom_at*0.707
meas ac freq_at when Vc=v3db
set wr_vecnames
set wr_singlescale
wrdata check/tb_ac_hbt_13g2_bcs.sp.out mag(v(vc)) mag(v(vb))
echo freq_at $&freq_at >> check/tb_ac_hbt_13g2_bcs.sp.out
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
